US07855193B2
6-(5-benzylbenzofuran-2-yl)-1,2,3,4-tetrahydroisoquinoline (Step 4 in Scheme 7)
A solution of 5-benzylbenzofuran-2-ylboronic acid (252 mg, 1.0 mmole) in ethanol (3 ml) was added to a mixture of 1-(6-bromo-3,4-dihydroisoquinolin-2(1H)-yl)-2,2,2-trifluoroethanone and 1-(8-bromo-3,4-dihydroisoquinolin-2(1H)-yl)-2,2,2-trifluoroethanone (308 mg, 1.0 mmole), Pd(PPh3)4, toluene, and 2 M Na2CO3(3.5 ml). The resulting mixture was heated at reflux overnight. The reaction was concentrated in vacuo, and the residue was diluted with water. The aqueous phase was extracted with EtOAc (3×50 ml). The combined organic phases were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified on ISCO column (5% to 10% MeOH/CH2Cl2) to provide the title compounds (189 mg, 56%). 1H NMR (400 MHz, CDCl3) δ 7.60 (m, 2H), 7.39 (dd, 1H), 7.37 (s, 1H), 7.25 (m, 5H), 7.10 (dd, 2H), 6.90 (s, 1H), 4.10 (s, 2H), 3.40 (s, 2H), 3.18 (m, 2H), 2.94 (m, 2H). MS (ESI) m/z: Calculated: 339.16; Observed: 340.10 (M++1).

reactant | 5-benzylbenzofuran-2-ylboronic acid | 1.0 mmole, 252 mg | C(C1=CC=CC=C1)C=1C=CC2=C(C=C(O2)B(O)O)C1 | C15H13BO3
reactant | 1-(6-bromo-3,4-dihydroisoquinolin-2(1H)-yl)-2,2,2-trifluoroethanone | BrC=1C=C2CCN(CC2=CC1)C(C(F)(F)F)=O | C11H9BrF3NO
reactant | 1-(8-bromo-3,4-dihydroisoquinolin-2(1H)-yl)-2,2,2-trifluoroethanone | 1.0 mmole, 308 mg | BrC=1C=CC=C2CCN(CC12)C(C(F)(F)F)=O | C11H9BrF3NO
reactant | Na2CO3 | 2 M, 3.5 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-(5-benzylbenzofuran-2-yl)-1,2,3,4-tetrahydroisoquinoline | 189 mg, 56% | C(C1=CC=CC=C1)C=1C=CC2=C(C=C(O2)C=2C=C3CCNCC3=CC2)C1 | C24H21NO
